US03954769
10.0 G. of 10-chloro-10,11-dihydro-3-methyl-8-methylthio-dibenzo[b,f]thiepin, 300 ml. of chloroform and 9.8 g. of N-methylpiperazine are heated at reflux for 30 hours. The mixture is evaporated under reduced pressure. The residue is worked up in an analogous manner to that described in Example 1, and there is obtained 1-(10,11-dihydro-3-methyl-8-methylthio-dibenzo[b,f]-thiepin-10-yl)-4-methylpiperazine whose dimethanesulfonate crystallizes from acetone and melts at 199°-200°C.

reactant | 10-chloro-10,11-dihydro-3-methyl-8-methylthio-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)SC)C=C(C=C2)C | C16H15ClS2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(10,11-dihydro-3-methyl-8-methylthio-dibenzo[b,f]-thiepin-10-yl)-4-methylpiperazine | CC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)C)C=C(C=C3)SC)C1 | C21H26N2S2
